US06869949B2
V. 6-Methoxymethyl-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-one
19.2 g of 8-benzyloxy-6-methoxymethyl-2,3-dimethylimidazo[1,2-a]pyridine, dissolved in 100 ml of methanol, are treated with 1.9 g of palladium (10% strength on activated carbon, Merck) and hydrogenated with hydrogen at 80° C. using a pressure of 50 bar. After absorption of hydrogen is complete, the catalyst is filtered off, washed with methanol and methylene chloride and the combined filtrate is concentrated to dryness in vacuo. After purification on silica gel (eluent: methylene chloride/methanol=13/1), 7.6 g of the title compound of melting point 103-104° C. are obtained.

reactant | 8-benzyloxy-6-methoxymethyl-2,3-dimethylimidazo[1,2-a]pyridine | 19.2 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)COC)C(=C(N2)C)C | C18H20N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | 1.9 g | [Pd] | Pd
product | 6-Methoxymethyl-2,3-dimethyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridin-8-one | COCC1CC(C=2N(C1)C(=C(N2)C)C)=O | C11H16N2O2
